US04886816
(d) 4-Bromomethyl-2,2-difluoro-1,3-benzodioxole
76 g of 2,2-difluoro-4-methyl-1,3-benzodioxole and 200 mg of Azobisisobutyronitrile are added to a suspension of 90 g of N-bromosuccinimide in 400 ml of methylene chloride. The mixture is then heated under reflux, with stirring, until all the undissolved material floats to the top. After cooling, the succinimide is filtered off with suction and rinsed with carbon tetrachloride and the solution is then distilled in order to separate off the carbon tetrachloride. 117 g of crude benzyl bromide remain in the residue and are employed without purification.

reactant | 2,2-difluoro-4-methyl-1,3-benzodioxole | 76 g | FC1(OC2=C(O1)C=CC=C2C)F | C8H6F2O2
reactant | Azobisisobutyronitrile | 200 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | N-bromosuccinimide | 90 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | 4-Bromomethyl-2,2-difluoro-1,3-benzodioxole | BrCC1=CC=CC=2OC(OC21)(F)F | C8H5BrF2O2
